US04977162
0.74 g of 2-carboethoxy-8-(4-(quinoline-2-ylmethoxy)phenoxymethyl)-4-oxo-4H-1-benzopyran and 0.7 g sodium bicarbonate are combined in 50 ml of ethanol and 5 ml of water. After refluxing for 1.5 hours the mixture is concentrated and the residue diluted with ether. The resulting solid is collected, suspended in water and the pH adjusted to 6 with 1 molar hydrochloric acid. The resulting solid is crystallized from aqueous acetic acid, then tetrahydrofuran/hexane to give 0.43 g 2-carboxy-8-(4-(quinolin-2-ylmethoxy)phenoxymethyl)-4-oxo-4H-1-benzopyran; m.p. 221°-24° C.

reactant | 2-carboethoxy-8-(4-(quinoline-2-ylmethoxy)phenoxymethyl)-4-oxo-4H-1-benzopyran | 0.74 g | C(=O)(OCC)C=1OC2=C(C(C1)=O)C=CC=C2COC2=CC=C(C=C2)OCC2=NC1=CC=CC=C1C=C2 | C29H23NO6
reactant | sodium bicarbonate | 0.7 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 2-carboxy-8-(4-(quinolin-2-ylmethoxy)phenoxymethyl)-4-oxo-4H-1-benzopyran | 0.43 g | C(=O)(O)C=1OC2=C(C(C1)=O)C=CC=C2COC2=CC=C(C=C2)OCC2=NC1=CC=CC=C1C=C2 | C27H19NO6
